US09315490B2
264a) (1-(5-(2-Fluoro-5-hydroxyphenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)methanone
Bis(tri-tert-butylphosphine) palladium(0)(0.51 g, 1.0 mmol) was added under an argon atmosphere to a suspension of [1-(5-bromo-pyrimidin-2-yl)-3-methanesulfinyl-1H-indol-6-yl]-morpholin-4-yl-methanone (1.0 g, 2.0 mmol), 2-fluoro-5-hydroxyphenylboronic acid (0.625 g, 4.0 mmol) and potassium fluoride (0.29 g, 5.0 mmol) in dioxane (50 ml). The reaction mixture was stirred at 90° C. for 4 h and then filtered through a pad of celite. The filter was washed with dichloromethane (2×20 mL) and concentrated. The residue was purified by flash column chromatography [silica; dichloromethane with 2% methanol]. Light yellow solid. Yield: 0.44 g (46% of theory)

reactant | [1-(5-bromo-pyrimidin-2-yl)-3-methanesulfinyl-1H-indol-6-yl]-morpholin-4-yl-methanone | 2.0 mmol, 1.0 g | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)S(=O)C | C18H17BrN4O3S
reactant | 2-fluoro-5-hydroxyphenylboronic acid | 4.0 mmol, 0.625 g | FC1=C(C=C(C=C1)O)B(O)O | C6H6BFO3
reactant | potassium fluoride | 5.0 mmol, 0.29 g | [F-].[K+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | Bis(tri-tert-butylphosphine) palladium(0) | 1.0 mmol, 0.51 g | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
product | (1-(5-(2-Fluoro-5-hydroxyphenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)methanone | FC1=C(C=C(C=C1)O)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)S(=O)C | C24H21FN4O4S
